US04820834
1,3-Dihydro-5-phenyl-3(RS)-(4-α-propylbenzoylamino)-2H-1,4-benzodiazepin-2-one
The procedure of Example 134 was carried out using 3(RS)-amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (39.2 mg, 0.156 mmole) in place of 1,3-dihydro-3(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin- 2-one and 4-n-propylbenzoyl chloride (28.5 mg, 0.156 mmole) in place of p-trifluoromethylbenzoyl chloride. The product was chromatographed on silica gel (15% (v/v) Et2O in CH2Cl2 elution). The combined product fractions were evaporated to dryness in vacuo and crystallized from Et2O to give the title compound which was dried in vacuo at 82° C.: (m.p.. 158°-162° C.).

reactant | 3(RS)-amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.156 mmole, 39.2 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | 4-n-propylbenzoyl chloride | 0.156 mmole, 28.5 mg | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
product | 1,3-Dihydro-5-phenyl-3(RS)-(4-α-propylbenzoylamino)-2H-1,4-benzodiazepin-2-one | C1(=CC=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(C2=CC=C(C=C2)CCC)=O | C25H23N3O2
